US07235572B2
In analogy to the procedure described in example 2 c], [rac]-2-{4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-propionic acid tert-butyl ester was treated with NaOH to obtain [rac]-2-{4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-propionic acid as light yellow gum.

reactant | [rac]-2-{4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)N1C=CC2=C(C=CC=C12)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C27H27F3N2O3S
reactant | NaOH | [OH-].[Na+]
product | [rac]-2-{4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-propionic acid | CC=1N=C(SC1COC1=C2C=CN(C2=CC=C1)C(C(=O)O)C)C1=CC=C(C=C1)C(F)(F)F | C23H19F3N2O3S
